US04698337
N,N-Dimethylformamide (0.4 g.), dry ethyl acetate (11.6 ml.), phosphoryl chloride (0.9 g.) and 2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetic acid (syn isomer, 1.6 g.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. On the other hand, a suspension of 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (1.5 g.) in a mixture of water (10 ml.) and acetone (20 ml.) was adjusted to pH 8.0 with triethylamine at -3° C. The activated acid solution was added to the stirred solution over 15 minutes while keeping at pH 7.5 to 8.0, and stirred at -3° to 3° C. for 30 minutes. After removing the solvent from the resultant solution in vacuo at pH 7.0, water (20 ml.) was added to the residue. The aqueous solution was washed with ethyl acetate and diethyl ether in turn, and the remaining organic solvent was removed from the solution by bubbling nitrogen gas. After adjusting the solution to pH 2.5 with 10% hydrochloric acid, the precipitates were collected by filtration, washed with water and dried over phosphorous pentoxide under reduced pressure to give 7-{2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)-acetamido}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 1.05 g.). The mother liquid was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diisopropyl ether. The pricipitates were collected by filtration, washed with diisopropyl ether and dried to give the same object compound (0.6 g.). Total yield 1.65 g.

reactant | N,N-Dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 0.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetic acid | 1.6 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCOC=O | C9H9N3O6S
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.5 g | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
solvent | water | 10 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 11.6 ml | C(C)(=O)OCC | C4H8O2
product | 7-{2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)-acetamido}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.05 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOCCOC=O | C18H18N6O10S2
